US08629136B2
Preparation 1M: 3,3,3-Trifluoropropyl trifluoromethanesulfonate
To a cold (−25° C.), stirred solution of 2,6-lutidine (18.38 mL, 158 mmol) in CH2Cl2 (120 mL) was added Tf2O (24.88 mL, 147 mmol) over 3 min, and stirred for 5 min. To the reaction mixture was added 3,3,3-trifluoropropan-1-ol (12 g, 105 mmol) over an interval of 3 min. After 2 hr, the reaction mixture was warmed to room temperature and stirred for 1 hr. The reaction mixture was concentrated to half volume, then purified by loading directly on silica gel column (330 g ISCO) and eluted with CH2Cl2. Obtained Preparation 1M (13.74 g, 53%) as a colorless oil. 1H NMR (400 MHz, CDCl3) δ ppm 4.71 (2H, t, J=6.15 Hz), 2.49-2.86 (2H, m).

reactant | 2,6-lutidine | 158 mmol, 18.38 mL | N1=C(C=CC=C1C)C | C7H9N
reactant | Tf2O | 147 mmol, 24.88 mL | O(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C2F6O5S2
reactant | 3,3,3-trifluoropropan-1-ol | 105 mmol, 12 g | FC(CCO)(F)F | C3H5F3O
solvent | CH2Cl2 | 120 mL | C(Cl)Cl | CH2Cl2
product | 3,3,3-Trifluoropropyl trifluoromethanesulfonate | FC(S(=O)(=O)OCCC(F)(F)F)(F)F | C4H4F6O3S
